### ISSUE TITLE
2.2: add_right_neg has been deprecated

### ISSUE THREAD

**Issue by sunnyhxu** [avigad/mathematics_in_lean_source#295]
In the textbook there is an example of add_right_neg:
```
theorem add_right_neg (a : R) : a + -a = 0 := by rw [add_comm, neg_add_cancel]
```
and solutions of following examples uses add_right_neg. For exampe,
```
theorem add_neg_cancel_right (a b : R) : a + b + -b = a := by
  rw [add_assoc, add_right_neg, add_zero]
```

However, add_right_neg has been deprecated by add_neg_cancel.

I can fix the issue if needed.
